US07820675B2
tert-Butyl 4-(5-amino-1-benzofuran-7-yl)piperazine-1-carboxylate
tert-Butyl 4-(5-nitro-1-benzofuran-7-yl)piperazine-1-carboxylate* (1 g, 2.9 mmol) was dissolved in THF/EtOH (1:4). An excess of Raney-Ni (slurry in ethanol) was added followed by hydrazine-hydrate (0.58 g, 11.5 mmol). The reaction mixture was stirred at room temperature overnight. Filtration and evaporation afforded 1.19 g of the title product that was used in the next step without further purification. HPLC purity 93%, RT=1.71 min (System A; 10-97% MeCN over 3 min). *Previously described in WO 2002100822.

reactant | tert-Butyl 4-(5-nitro-1-benzofuran-7-yl)piperazine-1-carboxylate | [N+](=O)([O-])C=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H21N3O5
reactant | hydrazine-hydrate | 11.5 mmol, 0.58 g | O.NN
solvent | THF EtOH | C1CCOC1.CCO
catalyst | Ni | [Ni] | Ni
product | tert-Butyl 4-(5-amino-1-benzofuran-7-yl)piperazine-1-carboxylate | 1.19 g | NC=1C=C(C2=C(C=CO2)C1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O3
